US04950764
Synthesis Example 1-3: Synthesis of N-methyl-N-hexadecyl-3-nitro-4-chlorobenzenesulfonamide
170 g of N-hexadecyl-3-nitro-4-chlorobenzenesulfonamide was dissolved in 640 ml of acetone, and 79 g of potassium carbonate, 6 ml of polyethylene glycol (average molecular weight: 400), and 71 g of dimethyl sulfate were added thereto, followed by refluxing the mixture for 5 hours under heating. 240 ml of acetone was added to the reaction solution, and 870 ml of water was further dropwise added thereto with stirring and keeping the temperature of the reaction solution at 40° C. Cooling the mixture to room temperature yielded crystals. The crystals were collected by filtration, washed in succession with water and methanol and then dried.

reactant | N-hexadecyl-3-nitro-4-chlorobenzenesulfonamide | 170 g | C(CCCCCCCCCCCCCCC)NS(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C22H37ClN2O4S
reactant | potassium carbonate | 79 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 71 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 870 ml | O | H2O
solvent | acetone | 640 ml | CC(=O)C | C3H6O
solvent | acetone | 240 ml | CC(=O)C | C3H6O
product | N-methyl-N-hexadecyl-3-nitro-4-chlorobenzenesulfonamide | CN(S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])CCCCCCCCCCCCCCCC | C23H39ClN2O4S
